
.SUBCKT INV VDD OUT IN
VPWL1 DRV 0 PWL FILE "code:./verilator_inv.so:AttachVerilatorInv:output,Vtol=1e-3,Ttol=1e-13,Delay=5e-12,RiseT=3e-12,FallT=2e-12"
IPWL2 IN  0 PWL FILE "code:./verilator_inv.so:AttachVerilatorInv:input"
IPWL3 VDD 0 PWL FILE "code:./verilator_inv.so:AttachVerilatorInv:vdd"
ROUT DRV OUT 100
COUT OUT   0 1e-14
.ENDS

X1 VDD B A INV

VPWL1 VDD 0 PWL(0S 3.1V 1ns 3V)

VPWL2 A   0 PWL(  0S 0V
+                2ns 0V
+                3nS 3V
+                8nS 3V
+                9nS 0V
+               14ns 0V
+               15ns 3V
+               20ns 3V
+               21ns 0V
+               26ns 0V
+               27ns 3V
+               32ns 3V
+               31ns 0V
+               38ns 0V
+)

.TRAN 1nS 40nS
.PRINT TRAN V(VDD) V(A) V(B)
.END

*   plot 'inv_verilator.cir.prn' using 2:2 with lines title "T"
* replot 'inv_verilator.cir.prn' using 2:3 with lines title "Vdd"
* replot 'inv_verilator.cir.prn' using 2:4 with lines title "V(a)"
* replot 'inv_verilator.cir.prn' using 2:5 with lines title "V(b)"
